US07985755B2
5-[4-(3-Trifluoromethoxy-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 3-(trifluoromethoxy)benzyl bromide (94.4 mg; 0.37 mmol) to obtain 58.9 mg. (70% yield). 1H NMR (400 MHz, DMSO-d6) δ 10.0 (br s, 1H), 8.97 (br s, 1H), 7.72 (m, 2H), 7.50 (m, 2H), 7.28 (m, 1H), 7.29 (m, 4H), 3.64 (s, 2H), 3.04 (d, J=10.4 Hz, 2H), 2.93 (m, 4H), 2.32 (m, 2H). ESIMS+419.8 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 3-(trifluoromethoxy)benzyl bromide | 0.37 mmol, 94.4 mg | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
product | 5-[4-(3-Trifluoromethoxy-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 70% yield | FC(OC=1C=C(CN2CCN(CC2)C2=C3C(=NC(=NC3=CC=C2)N)N)C=CC1)(F)F | C20H21F3N6O
